US05852017
b) 2-Amino-4-chloro-N-(2-ethylbutyl)aniline
40 g (0.156 mol) of 4-chloro-N-(2-ethylbutyl)-2-nitroaniline were dissolved in 500 ml of ethanol and, after addition of 4 g of Raney nickel, hydrogenated under 1 atm at room temperature. The mixture was then filtered and the filtrate was concentrated under reduced pressure to yield 35 g (98%) of the product.

reactant | 4-chloro-N-(2-ethylbutyl)-2-nitroaniline | 0.156 mol, 40 g | ClC1=CC(=C(NCC(CC)CC)C=C1)[N+](=O)[O-] | C12H17ClN2O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Raney nickel | 4 g | [Ni] | Ni
product | 2-Amino-4-chloro-N-(2-ethylbutyl)aniline | 35 g, 98% | NC1=C(NCC(CC)CC)C=CC(=C1)Cl | C12H19ClN2
